US08859591B2
To a solution of 4-fluoro-1H-pyrazole (250 mg, 2.90 mmol) and potassium carbonate (803 mg, 5.81 mmol) in acetonitrile (3 mL) was added 4-fluoronitrobenzene (430 mg, 3.05 mmol). The resulting mixture was stirred at 70° C. for 2 hours. The reaction was then filtered and concentrated. Purification by column chromatography gave 4-fluoro-1-(4-nitrophenyl)-1H-pyrazole (400 mg, 67%). 1H NMR (400 MHz, CDCl3, δ): 8.34 (d, 2H), 7.91 (d, 1H), 7.81 (d, 2H), 7.67 (d, 1H).

reactant | 4-fluoro-1H-pyrazole | 2.90 mmol, 250 mg | FC=1C=NNC1 | C3H3FN2
reactant | potassium carbonate | 5.81 mmol, 803 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoronitrobenzene | 3.05 mmol, 430 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 4-fluoro-1-(4-nitrophenyl)-1H-pyrazole | 400 mg, 67% | FC=1C=NN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H6FN3O2
